US05214191
C) 2-(4'-Benzamidophenyl)butyric acid
Benzoylchloride (7.84 g, 0.057 mol) was added dropwise to a solution of 2-(4'-aminophenyl)butyric acid (10.0 g, 0.057 mol) and pyridine (4.85 g, 0.061 mol) in 100 mL of THF at 0° C. After 30 minutes the ice bath was removed and the reaction warmed to room temperature. After 1 hour the suspension was diluted with 300 mL of ether, washed with 10% HCl (3×50 mL), saturated NaCl (50 mL), dried over MgSO4 and evaporated to give a brown solid. Trituration with ether afforded 7.54 g (47.7%) of the product as a white solid.

reactant | Benzoylchloride | 0.057 mol, 7.84 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-(4'-aminophenyl)butyric acid | 0.057 mol, 10.0 g | NC1=CC=C(C=C1)C(C(=O)O)CC | C10H13NO2
reactant | pyridine | 0.061 mol, 4.85 g | N1=CC=CC=C1 | C5H5N
reactant | ether | CCOCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(4'-Benzamidophenyl)butyric acid | 7.54 g, 47.7% | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)C(C(=O)O)CC | C17H17NO3
